US06762205B1
224 mg of 4-[N(4-methoxyphenyl)amino]benzonitrile was dissolved in 1.2 ml of N,N-dimethylformamide, and 48 mg of sodium borohydride was added thereto under cooling with ice, followed by stirring at room temperature for 30 minutes. The previously prepared 4-(t-butyldimethylsilyloxy)benzyl chloride was dissolved in 1.2 ml of N,N- dimethylformamide and added to the reaction mixture under cooling with ice, followed by stirring at room temperature for 2 days. After water was added to the reaction mixture, the product was extracted with ethyl acetate. After the extract was washed with water and dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The resulting residue was dissolved in 1.2 ml of tetrahydrofuran, and 1.2 ml of a 1 M tetrahydrofuran solution of tetrabutylammonium fluoride was added thereto, followed by stirring at room temperature for 15 minutes. After a saturated aqueous solution of sodium hydrogen carbonate was added to the reaction mixture, the product was extracted with ethyl acetate. After the extract was washed with water and dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (using ethyl acetate as the eluent) to obtain 229 mg of 4-[N-(4-hydroxybenzyl)-N-(4-methoxyphenyl)amino]benzonitrile.

reactant | 4-[N(4-methoxyphenyl)amino]benzonitrile | 224 mg | COC1=CC=C(C=C1)NC1=CC=C(C#N)C=C1 | C14H12N2O
reactant | sodium borohydride | 48 mg | [BH4-].[Na+]
reactant | 4-(t-butyldimethylsilyloxy)benzyl chloride | [Si](C)(C)(C(C)(C)C)OC1=CC=C(CCl)C=C1 | C13H21ClOSi
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 1.2 ml | CN(C=O)C | C3H7NO
solvent | N,N- dimethylformamide | 1.2 ml | CN(C=O)C | C3H7NO
product | 4-[N-(4-hydroxybenzyl)-N-(4-methoxyphenyl)amino]benzonitrile | 229 mg | OC1=CC=C(CN(C2=CC=C(C=C2)OC)C2=CC=C(C#N)C=C2)C=C1 | C21H18N2O2
